US09238639B2
C) Methyl(4-chloro-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-chloro-6-hydroxy-1-benzothiophen-3-yl)acetate (110 mg) and THF (dry) (5 mL) were added (2,6-dimethylpyridin-3-yl)methanol (58.8 mg), tri-n-butylphosphine (0.159 mL) and ADDP (130 mg) at room temperature. The mixture was stirred at room temperature for 12 h. The insoluble material was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (139 mg).

reactant | methyl(4-chloro-6-hydroxy-1-benzothiophen-3-yl)acetate | 110 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)Cl)=O | C11H9ClO3S
reactant | (2,6-dimethylpyridin-3-yl)methanol | 58.8 mg | CC1=NC(=CC=C1CO)C | C8H11NO
reactant | tri-n-butylphosphine | 0.159 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 130 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl(4-chloro-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 139 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C)C)Cl)=O | C19H18ClNO3S
